US06465507B2
To a stirred solution of lithium bis(trimethylsilyl)amide (11 mL of 1 M solution in THF) cooled to −78° C. under nitrogen was added dropwise a solution of tosylmethyl isocyanide (1.9 g, 10 mmol) in THF (45 mL). After stirring for 40 minutes at −78° C., a solution of 1-methyl-5,6-dihydro-1H-pyridin-2-one (1.1 g, 10 mmol) in THF (10 mL) was added and the mixture was stirred at room temperature for overnight. The reaction was concentrated and the residue was partitioned between water (150 mL) and dichloromethane (150 mL). The aqueous was extracted with dichloromethane (3×). The combined organic layers were concentrated and dried under high vacuum. The resulting foam was recrystallized from dichloromethane to give 633 mg (42%) of 5-methyl-2,5,6,7-tetrahydro-pyrrolo[3,4-c]pyridin-4-one as a light yellow solid.

reactant | lithium bis(trimethylsilyl)amide | 1 M, 11 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | tosylmethyl isocyanide | 10 mmol, 1.9 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | 1-methyl-5,6-dihydro-1H-pyridin-2-one | 10 mmol, 1.1 g | CN1C(C=CCC1)=O | C6H9NO
solvent | THF | 45 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-methyl-2,5,6,7-tetrahydro-pyrrolo[3,4-c]pyridin-4-one | 633 mg, 42% | CN1C(C=2C(CC1)=CNC2)=O | C8H10N2O
